US09290451B2
f) 5-Methyl-6-(piperidine-1-sulfonyl)-pyridine-2-carboxylic acid
5-Methyl-6-(piperidine-1-sulfonyl)-pyridine-2-carboxylic acid methyl ester (53 mg, 0.178 mmol) in dioxane (2 mL) was added to a solution of lithium hydroxide monohydrate (CAN 1310-66-3, 0.1 g, 2.38 mmol) in water (2 mL) and the mixture was stirred for 2 h at room temperature. The solvent was removed in vacuo, water (10 mL) was added, and the pH was adjusted to 3 with 1 N hydrochloric acid. The mixture was extracted by ethyl acetate (2×10 mL). The organic layer was washed with brine (20 mL), dried over anhydrous sodium sulfate, and concentrated to give the product (36 mg, 71%); MS (EI): m/e=285.2 [M+H]+.

reactant | 5-Methyl-6-(piperidine-1-sulfonyl)-pyridine-2-carboxylic acid methyl ester | 0.178 mmol, 53 mg | COC(=O)C1=NC(=C(C=C1)C)S(=O)(=O)N1CCCCC1 | C13H18N2O4S
reactant | lithium hydroxide monohydrate | 2.38 mmol, 0.1 g | O.[OH-].[Li+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | 5-Methyl-6-(piperidine-1-sulfonyl)-pyridine-2-carboxylic acid | 36 mg, 71% | CC=1C=CC(=NC1S(=O)(=O)N1CCCCC1)C(=O)O | C12H16N2O4S
